US08735435B2
Boron tribromide (17.4 mg, 6.6 μL, 0.0692 mmol) was added to a stirred solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[4′-fluoro-3′-hydroxy-5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one (22.6 mg, 0.0346 mmol) in dry CH2Cl2 (1 mL) at −78° C. at room temperature under N2 and the reaction was stirred for 8 h. The reaction was diluted with water (5 mL) and extracted with EtOAc (3×20 mL). The combined extracts were dried (Na2SO4) and concentrated in vacuo to give the crude product. This was purified by chiral HPLC (IA column, 20×250 mm, 15% i-PrOH in heptane) to afford (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[4′-fluoro-2′,3′-dihydroxy-5′-isopropyl-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one. Rf=0.24 (20% EtOAc in hexanes). LCMS calc.=640.2; found=640.2 (M+1)+. 1H NMR (600 MHz, CDCl3, 1:1 mixture of atropisomers) δ 7.85 (s, 1H), 7.70-7.62 (m, 4H), 7.41 (m, 1H), 6.52 (s, 0.5H), 6.51 (s, 0.5H), 6.20 (br s, 2H), 5.65 (d, J=7.9 Hz, 0.5H), 5.38 (d, J=8.0 Hz, 0.5H), 5.00 (d, J=15.5 Hz, 0.5H), 4.92 (d, J=15.6 Hz, 0.5H), 4.15 (d, J=15.5 Hz, 0.5H), 4.02 (d, J=15.6 Hz, 0.5H), 3.88 (t, J=6.7 Hz, 0.5H), 3.77 (t, J=6.7 Hz, 0.5H), 3.19-3.13 (m, 1H), 1.26-1.17 (m, 6H), 0.59 (d, J=6.1 Hz, 1.5H), 0.48 (d, J=6.2 Hz, 1.5H).

reactant | Boron tribromide | 0.0692 mmol, 6.6 μL, 17.4 mg | B(Br)(Br)Br | BBr3
reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[4′-fluoro-3′-hydroxy-5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | 0.0346 mmol, 22.6 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C(=C(C(=C1)C(C)C)F)O)OC)C)(F)F | C30H25F10NO4
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[4′-fluoro-2′,3′-dihydroxy-5′-isopropyl-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C(=C(C(=C1)C(C)C)F)O)O)C)(F)F | C29H23F10NO4
